US04950671
A solution of p-bromo-(t-butyl)benzene (21.3 g., 0.10 mole) in dry diethyl ether (100 ml.) was added dropwise to a mixture of magnesium turnings (2.4 g.), a single iodine crystal and dry diethyl ether (50 ml.). The mixture was allowed to react at ambient temperature for two hours. The resultant Grignard solution was transferred to a dry dropping funnel and added dropwise to a solution of methallyl dichloride (13 8 g., 0.11 mole) in dry diethyl ether (50 ml.). After complete addition of the Grignard solution, the mixture was refluxed for three hours and thereafter cooled with an ice-water bath while 15% hydrochloric acid (150 ml.) was added thereto. The mixture was extracted with diethyl ether and the organic phase dried over sodium sulfate, filtered and evaporated to yield a liquid. The liquid was distilled to provide 10 grams of 2-[(p-t-butylphenyl)methyl]-2-propenyl chloride. This product was characterized by a boiling point of 105° C. to 111° C. at a pressure of 0.25 mm Hg.

reactant | p-bromo-(t-butyl)benzene | 0.10 mole, 21.3 g | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | methallyl dichloride | 0.11 mole, 8 g | C=C(CCl)CCl | C4H6Cl2
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-[(p-t-butylphenyl)methyl]-2-propenyl chloride | 10 grams | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)=C | C14H19Cl
